US07728150B2
N-[3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-methanesulfonamide
Combine 1-ethyl-5-fluoro-indan-1-ol (502 mg, 2.79 mmol, 1.30 equivalents), N-(1H-Indol-7-yl)-methanesulfonamide (450 mg, 2.14 mmol, 1.00 equivalents), and trifluoroacetic acid (0.25 ml, 3.21 mmol, 1.50 equivalents) in dichloromethane (5 ml) and stir at room temperature under nitrogen overnight. Load the solution on silica and purify eluting with 0 to 100% ethyl acetate/hexanes over 25 minutes to obtain the title compound (672 mg, 84%). LC-MS m/z 373.0 (M++1). The racemic mixture is separated on a Chiralcel OJ 8×33 cm column eluting with methanol with 0.2% dimethylethylamine (flow: 375 ml/min, UV detection at 230 nm) to provide the individual enantiomers, Examples 1A and 1B, in 96.3% ee and 97.4% ee, respectively.

reactant | 1-ethyl-5-fluoro-indan-1-ol | 2.79 mmol, 502 mg, 1.30 equivalents | C(C)C1(CCC2=CC(=CC=C12)F)O | C11H13FO
reactant | N-(1H-Indol-7-yl)-methanesulfonamide | 2.14 mmol, 450 mg, 1.00 equivalents | N1C=CC2=CC=CC(=C12)NS(=O)(=O)C | C9H10N2O2S
reactant | trifluoroacetic acid | 3.21 mmol, 0.25 ml, 1.50 equivalents | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-[3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-methanesulfonamide | 672 mg, 84% | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)NS(=O)(=O)C | C20H21FN2O2S
